US07081538B1
(5RS)-3-(3-Fluoro-4-iodophenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydro-isoxazole
A solution of (5RS)-3-(3-Fluoro-4-iodophenyl)-5-methanesulfonyloxymethyl-4,5-dihydroisoxazole (1.7 g, 4.26 mM) in dry N,N-dimethylformamide (40 ml) under nitrogen, was treated with sodium hydride (60% in oil, 0.205 g, 5.13 mM), and stirred for 5 minutes. N-Allyl-3-(t-Butoxycarbonylamino)isoxazole (0.86 g, 4.69 mM) was added, and the mixture heated at 60° for 18 hours. After cooling and dilution with water (200 ml), the mixture was extracted with ethyl acetate (3×100 ml), the extracts were washed with water (2×100 ml), brine (100 ml), dried (magnesium sulfate). The residue after evaporation was purified by chromatography on a 50 g silica Mega Bond Elut® column, eluting with a mixture of 25% ethyl acetate in isohexane. Relevant fractions were combined to give the desired product (1.61 g). MS (ESP): 488 (MH+) for C18H19FIN3O4

reactant | (5RS)-3-(3-Fluoro-4-iodophenyl)-5-methanesulfonyloxymethyl-4,5-dihydroisoxazole | 4.26 mM, 1.7 g | FC=1C=C(C=CC1I)C1=NOC(C1)COS(=O)(=O)C | C11H11FINO4S
reactant | sodium hydride | 5.13 mM, 0.205 g | [H-].[Na+]
reactant | N-Allyl-3-(t-Butoxycarbonylamino)isoxazole | 4.69 mM, 0.86 g | C(C=C)N1OC=CC1NC(=O)OC(C)(C)C | C11H18N2O3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (5RS)-3-(3-Fluoro-4-iodophenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydro-isoxazole | 1.61 g | FC=1C=C(C=CC1I)C1=NOC(C1)CN(C(=O)OC(C)(C)C)C1=NOC=C1 | C18H19FIN3O4
